.include "neuron.sp"

* Power supply
VDD vdd 0 5V

* Input pulse
Vgd vgs 0 0.4

* Integrator
I_in 0 body 2.5u
C_body body 0 1p
R_body body 0 2meg


* Threshold detector
X_inv1 vdd 0 body x inverter w_p=2.1u l_p=24u w_n=1.5u l_n=24u
X_inv2 vdd 0 x spike inverter w_p=2.1u l_p=24u w_n=1.5u l_n=24u

* Reset and Leakyness
M_reset_n_leakyness 0 spike body gnd n W=1.5u L=0.6u

*Cload spike 0 0.1f

* Simulation
.tran 1n 10u uic

.control
run
plot v(body) v(spike)
.endc

.end
